US05461059
Step B: 2-chloro 1-(4 fluorobenzyl) benzimidazole
11 g 2-chlorobenzimidazole are dissolved in 74 ml water and 17.35 ml 30% sodium hydroxide. The mixture is heated to 82° C. and to this they are slowly added 23.76 g 4-fluorobenzyl chloride within 5 hours. When the reaction is achieved, the solution is cooled to 20° C. and extracted with methylene chloride. The compound is recrystallized from ethyl acetate.

reactant | 2-chlorobenzimidazole | 11 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-fluorobenzyl chloride | 23.76 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | water | 74 ml | O | H2O
solvent | sodium hydroxide | 17.35 ml | [OH-].[Na+]
product | 2-chloro 1-(4 fluorobenzyl) benzimidazole | ClC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C14H10ClFN2
